US07501428B2
To a solution of phosphorus oxychloride (50 mL) was added powdered 6-bromo-2-methylamino-1H-quinazolin-4-one (10.0 g, 39.4 mmol) followed by dimethyl-phenyl-amine (8 mL) and the mixture was heated to reflux under N2 atmosphere for half an hour. After cooling down, the mixture was poured onto ice and basified with aqueous NaOH solution (2 M). The precipitate was collected by filtration and purified by column to afford (6-bromo-4-chloro-quinazolin-2-yl)-methyl-amine (5 g, 18.3 mmol, 46.6%) as a yellow solid. 1H NMR (DMSO-d6): δ 8.03 (s, 1H), 7.86-7.84 (m, 2H), 7.47-7.45 (d, 1H), 2.86-2.84 (d, 3H).

reactant | 6-bromo-2-methylamino-1H-quinazolin-4-one | 39.4 mmol, 10.0 g | BrC=1C=C2C(N=C(NC2=CC1)NC)=O | C9H8BrN3O
reactant | dimethyl-phenyl-amine | 8 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | NaOH | 2 M | [OH-].[Na+]
reactant | phosphorus oxychloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (6-bromo-4-chloro-quinazolin-2-yl)-methyl-amine | 18.3 mmol, 5 g, 46.6% | BrC=1C=C2C(=NC(=NC2=CC1)NC)Cl | C9H7BrClN3
